US07767829B2
5.3 6-[(2E)-4,5,6,7-Tetrafluoro-3-methyl-2-[(2E,4E)-4-(phenylimino)but-2-enylidene]-3-(4-sulfobutyl)-2,3-dihydro-1H-indol-1-yl]hexanoic acid
To 1-(5-carboxypentyl)-4,5,6,7-tetrafluoro-3-methyl-3-(4-sulfobutyl)-3H-indolium (12 mg) was added malonaldehyde bis(phenylimine) monohydrochloride (7 mg), acetic anhydride (2 ml) and acetic acid (1 ml). This mixture was heated to 120° C. for 1 hour 50 minutes after which time it was cooled to room temperature. This crude reaction mixture (ca. 5 mg/ml product) was used without purification as further described.

reactant | 1-(5-carboxypentyl)-4,5,6,7-tetrafluoro-3-methyl-3-(4-sulfobutyl)-3H-indolium | 12 mg | C(=O)(O)CCCCC[N+]1=CC(C2=C(C(=C(C(=C12)F)F)F)F)(CCCCS(=O)(=O)O)C
reactant | malonaldehyde bis(phenylimine) monohydrochloride | 7 mg | Cl.C1(=CC=CC=C1)N=CCC=NC1=CC=CC=C1
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-[(2E)-4,5,6,7-Tetrafluoro-3-methyl-2-[(2E,4E)-4-(phenylimino)but-2-enylidene]-3-(4-sulfobutyl)-2,3-dihydro-1H-indol-1-yl]hexanoic acid | FC1=C2C(\C(\N(C2=C(C(=C1F)F)F)CCCCCC(=O)O)=C/C=C/C=N/C1=CC=CC=C1)(CCCCS(=O)(=O)O)C | C29H32F4N2O5S
